US07829580B2
(d) (E)-3-{[2-(Methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol
Sodium borohydride (400 mg) was added to a solution of (E)-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one (5.18 g) in tetrahydrofuran (100 ml) at 0° C. After the mixture was stirred at the same temperature for 2 hours, the reaction was quenched by addition of a saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure, and the objective material that emerged was collected by filtration. The mother liquor was concentrated and the residue was purified by silica gel chromatography using hexane, ethyl acetate, and dichloromethane (1:1:1) as an eluent to afford an additional amount of the title compound as a colourless amorphous solid. Total amount: 1.5 g, total yield: 29%.

reactant | Sodium borohydride | 400 mg | [BH4-].[Na+]
reactant | (E)-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one | 5.18 g | COC(=O)CN1N=C(N=N1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27N5O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (E)-3-{[2-(Methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | yield: 29% | COC(=O)CN1N=C(N=N1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H29N5O3
